US08247401B2
Step C: tert-Butyl 3-[(methylamino)carbonyl]-5-(5-methylpyridin-2-yl)benzoate
To a solution of 3-tert-butoxycarbonyl)-5-(5-methylpyridin-2-yl)benzoic acid (1.15 g, 3.67 mmol) in N,N-dimethylformamide (36 mL) were added methanamine (5.51 mL, 11.01 mmol), EDC (2.11 g, 11.01 mmol), HOBT (1.12 g, 7.34 mmol) and diisopropylethylamine (2.56 mL, 14.68 mmol). The reaction mixture was stirred at ambient temperature. After 18 h, water was added and the mixture was extracted with ethyl acetate (3×). The combined organic extracts were washed with water (2×), brine, dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% hexanes→30% hexanes/ethyl acetate) gave the title compound. MS 327.1 (M+1).

reactant | 5-(5-methylpyridin-2-yl)benzoic acid | 3.67 mmol, 1.15 g | CC=1C=CC(=NC1)C=1C=CC=C(C(=O)O)C1 | C13H11NO2
reactant | methanamine | 11.01 mmol, 5.51 mL | CN | CH5N
reactant | EDC | 11.01 mmol, 2.11 g
reactant | HOBT | 7.34 mmol, 1.12 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 14.68 mmol, 2.56 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N,N-dimethylformamide | 36 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-Butyl 3-[(methylamino)carbonyl]-5-(5-methylpyridin-2-yl)benzoate | CNC(=O)C=1C=C(C(=O)OC(C)(C)C)C=C(C1)C1=NC=C(C=C1)C | C19H22N2O3
